US08604211B2
Synthesis of N-methyl-4-oxo-N-[5-(3-pyridyl)-1,3,4-thiadiazol-2-yl]pentanamide (Compound 49)
4-oxopentanoyl chloride (0.378 g, 2.8 mmol) was added to a suspension of N-methyl-5-(3-pyridyl)-1,3,4-thiadiazol-2-amine (0.3 g, 1.6 mmol) and 4-N,N-dimethylaminopyridine (0.229 g, 1.9 mmol) in dichloroethane (5 mL), stirred under nitrogen at room temperature for 30 minutes, refluxed for 14 hours, cooled, diluted with dichloroethane (50 mL) and washed with saturated aqueous sodium bicarbonate (70 mL). The aqueous layer was extracted with dichloroethane (30 mL) and the combined organic layers were dried over MgSO4, adsorbed on silica, applied to a Michel-Miller column and eluted with 9:1 ethyl acetate/hexane. The major fraction was collected and recrystallized from ethyl acetate/hexane to afford yellow needles. Yield 0.21 g (46%): mp 146-147° C.; IR (KBr, thin film) 1701, 1659 cm−1; 1HNMR (400 MHz, CDCl3) δ 9.13 (d, J=1.8 Hz, 1H), 8.69 (dd, J=4.8, 1.5 Hz, 1H), 8.28 (dt, J=6.2, 1.9 Hz, 1H), 7.42 (dd, J=8.0, 5.1 Hz, 1H), 3.90 (s, 3H), 2.96 (br, 4H), 2.29 (s, 3H); ESIMS m/z 291 ([M+H]+).

reactant | 4-oxopentanoyl chloride | 2.8 mmol, 0.378 g | O=C(CCC(=O)Cl)C | C5H7ClO2
reactant | N-methyl-5-(3-pyridyl)-1,3,4-thiadiazol-2-amine | 1.6 mmol, 0.3 g | CNC=1SC(=NN1)C=1C=NC=CC1 | C8H8N4S
reactant | KBr | [K+].[Br-]
solvent | dichloroethane | 5 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 50 mL | ClC(C)Cl | C2H4Cl2
product | N-methyl-4-oxo-N-[5-(3-pyridyl)-1,3,4-thiadiazol-2-yl]pentanamide | CN(C(CCC(C)=O)=O)C=1SC(=NN1)C=1C=NC=CC1 | C13H14N4O2S
